US07393852B2
Preparation XIV—5(S)-Hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester
To an oven-dried 2 L round-bottomed flask equipped with an argon inlet/outlet and magnetic stirring was added (R)-methyl CBS oxaborolidine (7.4 mL of a 1 M soln in toluene, 7.4 mmol, Aldrich). Toluene 190 mL was added and the reaction was cooled in an ice-salt bath (bath temp.=−10° C.). BH3-SMe2 was added (17 mL, 180 mmol, Aldrich), then 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester (30 g, 150 mmol, Albany Molecular) in 200 mL of THF was added over 5 h using a syringe pump. After the addition was complete, the mixture was stirred for an additional 1 h. The mixture was poured into an addition funnel, and the mixture was added to 200 mL of MeOH, cooled in a ice-salt bath, over 30 min at such a rate that the internal temp. was kept below 0° C. The mixture was concentrated in vacuo. Et2O (1L) was added, and the mixture was washed with 1 M H3PO4 (3×), satd NaHCO3, and brine (ca. 400 mL each wash). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was dissolved in Et2O again (500 mL), and the mixture was washed with 1M H3PO4 (3×200 mL), satd NaHCO3, and brine. After drying the organic layer over MgSO4, the mixture was filtered and concentrated in vacuo, which gave the title compound as a white-yellow solid. MS (+ion ESI) m/z=207 (MH+), 189 (MH+-H2O).

reactant | 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 150 mmol, 30 g | COC(=O)C1=CC=2CCCC(C2C=C1)=O | C12H12O3
reactant | MeOH | 200 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
product | 5(S)-Hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC=2CCC[C@@H](C2C=C1)O | C12H14O3
